US09085583B2
Step 5: 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid
To a mixture of methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylate (800 mg, 2.72 mmol) and KOH (1.5 g, 27.2 mmol) in (15 mL) and water (5 mL) was refluxed for 2 hours. The mixture was adjust PH to 2 by 10% HCl and extracted with EA. The combined organic layers were washed with brine, dried and concentrated to afford the crude product. The crude product was used into the next step without more purification. 100% yield. (760 mg).

reactant | methyl 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylate | 2.72 mmol, 800 mg | CC1=C(C=2C(=CN=CC2)N1C(C)C1=CC=CC=C1)C(=O)OC | C18H18N2O2
reactant | KOH | 27.2 mmol, 1.5 g | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 2-methyl-1-(1-phenylethyl)-1H-pyrrolo[2,3-c]pyridine-3-carboxylic acid | 100% yield | CC1=C(C=2C(=CN=CC2)N1C(C)C1=CC=CC=C1)C(=O)O | C17H16N2O2
